US06130237
A mixture of vanillin (10.00 g, 65.7 mmol), K2CO3 (45.4 g, 329 mmol), 1,2-dichloroethane (104 mL, 1.31 mol), and DMF (300 mL) was stirred at 65-70° C. for 16 h. The dichloroethane was evaporated and the remaining slurry was poured onto ice. The oil that separated was extracted with Et2O (×4) and EtOAc (×3). The combined extracts were washed with water (×3), dried (Na2SO4 /MgSO4), and evaporated to give a clear oil that solidified upon trituration with hexanes. Crystallization from Et20 gave 4-(2-chloroethoxy)-3-methoxybenzaldehyde (12.04 g, 85%) as white needles, mp 60-61° C. 1H NMR (CDCl3) δ 9.87 (s, 1 H, CHO), 7.46 (dd, J=8.0, 2.0 Hz, 1 H, H-6), 7.43 (d, J=2.0 Hz, 1 H, H-5), 6.99 (d, J=8.0 Hz, 1 H, H-2), 4.36 (t, J=6.1 Hz, 2 H, OCH2), 3.94 (s, 3 H, OCH3), 3.89 (t, J=6.1 Hz, 2 H, CH2Cl); 13C NMR δ 190.8 (CHO), 153.9 (C-4), 150.0 (C-3), 130.8 (C-1), 126.3 (C-6), 112.3 (C-2), 109.8 (C-5), 68.9 (OCH2), 56.0 (OCH3), 41.2 (CH2Cl).

reactant | vanillin | 65.7 mmol, 10.00 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | K2CO3 | 329 mmol, 45.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,2-dichloroethane | 1.31 mol, 104 mL | ClCCCl | C2H4Cl2
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 4-(2-chloroethoxy)-3-methoxybenzaldehyde | 12.04 g, 85% | ClCCOC1=C(C=C(C=O)C=C1)OC | C10H11ClO3
